### PR TITLE
[Merged by Bors] - feat: lemmas about operations on EReal

### PR DESCRIPTION
**Pull request by RemyDegenne**
Co-authored-by: Gaëtan Serré <gaetan.serre@ens-paris-saclay.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/EReal/Operations.lean [hunk 1]
```diff
@@ -419,6 +419,24 @@ lemma toENNReal_sub {x y : EReal} (hy : 0 ≤ y) :
       ofReal_sub x (EReal.coe_nonneg.mp hy)]
     simp
 
+lemma add_sub_add_comm {a b c d : EReal} (h1 : c ≠ ⊥ ∨ d ≠ ⊤) (h2 : c ≠ ⊤ ∨ d ≠ ⊥) :
+    (a + b) - (c + d) = (a - c) + (b - d) := by
+  rw [sub_eq_add_neg, sub_eq_add_neg, sub_eq_add_neg, EReal.neg_add h1 h2, sub_eq_add_neg]
+  grind
+
+lemma add_sub_add (a b : EReal) {c d : EReal} (hc : c ≠ ⊥) (hd : d ≠ ⊥) :
+    a + b - (c + d) = (a - c) + (b - d) := by
```
Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean]: Isn't the second one a special case of the first?

File: Mathlib/Data/EReal/Operations.lean [hunk 2]
```diff
@@ -488,6 +506,23 @@ lemma sub_lt_of_lt_add {a b c : EReal} (h : a < b + c) : a - c < b :=
 lemma sub_lt_of_lt_add' {a b c : EReal} (h : a < b + c) : a - b < c :=
   sub_lt_of_lt_add <| by rwa [add_comm]
 
+lemma sub_lt_sub_of_le_of_lt {x y z t : EReal} (h : x ≤ y) (h' : z < t)
+  (hy_top : y ≠ ⊤) (hy_bot : y ≠ ⊥) :
+  x - t < y - z := by
```
Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean]:
```suggestion
    (hy_top : y ≠ ⊤) (hy_bot : y ≠ ⊥) :
    x - t < y - z := by
```

Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean]:
```suggestion
lemma sub_lt_sub_of_le_of_gt {x y z t : EReal} (h : x ≤ y) (h' : z < t)
  (hy_top : y ≠ ⊤) (hy_bot : y ≠ ⊥) :
  x - t < y - z := by
```
according to the new naming convention

File: Mathlib/Data/EReal/Operations.lean [hunk 3]
```diff
@@ -790,6 +825,11 @@ lemma left_distrib_of_nonneg {a b c : EReal} (ha : 0 ≤ a) (hb : 0 ≤ b) :
   nth_rewrite 1 [EReal.mul_comm]; nth_rewrite 2 [EReal.mul_comm]; nth_rewrite 3 [EReal.mul_comm]
   exact right_distrib_of_nonneg ha hb
 
+lemma mul_sub_of_nonneg_of_nonpos {a b c : EReal} (hb : 0 ≤ b) (hc : c ≤ 0) :
+    a * (b - c) = a * b - a * c := by
```
Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean:820]: I don't have much intuition about the edge cases, but isn't one of these true?
```suggestion
lemma mul_sub_of_nonneg_of_nonpos {a b c : EReal} (hcb : c ≤ b) (hc : c ≤ 0) :
    a * (b - c) = a * b - a * c := by
```
or
```suggestion
lemma mul_sub_of_nonneg_of_nonpos {a b c : EReal} (hb : 0 ≤ b) (hcb : c ≤ b) :
    a * (b - c) = a * b - a * c := by
```

File: Mathlib/Data/EReal/Operations.lean [hunk 4]
```diff
@@ -805,6 +845,21 @@ lemma right_distrib_of_nonneg_of_ne_top {x : EReal} (hx_nonneg : 0 ≤ x)
...
+  rw [sub_eq_add_neg, left_distrib_of_nonneg_of_ne_top ha ha']
+  simp [← neg_mul, sub_eq_add_neg]
+
+lemma sub_mul_of_nonneg_of_ne_top {a b c : EReal} (ha : 0 ≤ a) (ha' : a ≠ ⊤) :
+    (b - c) * a = b * a - c * a := by
+  rw [sub_eq_add_neg, right_distrib_of_nonneg_of_ne_top ha ha']
+  simp [← neg_mul, sub_eq_add_neg]
+
+lemma mul_sub_of_eq_zero {a b c : EReal} (h : b = 0 ∨ c = 0) : a * (b - c) = a * b - a * c := by
```
Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean]: Is this lemma really worth having?

Comment (RemyDegenne) [reply Mathlib/Data/EReal/Operations.lean]: Right. I think was written because of an application where `b - c` is a number written as a difference of positive and negative parts, so the hypothesis h is exactly what you know about those. But instead of having a lemma we should just consider cases for that hypothesis and simplify.
Deleted.

File: Mathlib/Data/EReal/Operations.lean (hunk 3 above)
Comment (RemyDegenne) [reply Mathlib/Data/EReal/Operations.lean:820]: For your first suggestion if c <= b <= 0 and a = top then the left hand side is top but the right hand side is bot.
For the second one if 0 <= c <= b and a = top then the lhs is top but the rhs is bot again.
So they don't work.

File: Mathlib/Data/EReal/Operations.lean [hunk 5]
```diff
@@ -805,6 +832,16 @@ lemma right_distrib_of_nonneg_of_ne_top {x : EReal} (hx_nonneg : 0 ≤ x)
     (y + z) * x = y * x + z * x := by
   simpa only [EReal.mul_comm] using left_distrib_of_nonneg_of_ne_top hx_nonneg hx_ne_top y z
 
+lemma mul_sub_of_nonneg_of_ne_top {a b c : EReal} (ha : 0 ≤ a) (ha' : a ≠ ⊤) :
+    a * (b - c) = a * b - a * c := by
```
Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean:840]: Does this statement fail for finite negative `a`?

File: Mathlib/Data/EReal/Operations.lean [hunk 6]
```diff
@@ -488,6 +493,23 @@ lemma sub_lt_of_lt_add {a b c : EReal} (h : a < b + c) : a - c < b :=
 lemma sub_lt_of_lt_add' {a b c : EReal} (h : a < b + c) : a - b < c :=
   sub_lt_of_lt_add <| by rwa [add_comm]
 
+lemma sub_lt_sub_of_le_of_gt {x y z t : EReal} (h : x ≤ y) (h' : z < t)
+    (hy_top : y ≠ ⊤) (hy_bot : y ≠ ⊥) :
+    x - t < y - z := by
```
Comment (YaelDillies) [inline Mathlib/Data/EReal/Operations.lean:498]: Isn't this true?
```suggestion
lemma sub_lt_sub_of_le_of_gt {x y z t : EReal} (h : x ≤ y) (h' : z < t)
    (hx_top : x ≠ ⊤) (hy_bot : y ≠ ⊥) :
    x - t < y - z := by
```
It's also a more symmetric statement

File: Mathlib/Data/EReal/Operations.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Data/EReal/Operations.lean:840]: For negative a, if b = c = top then the (b - c) is bot and the lhs is top. The rhs is bot because a*b is bot.

File: Mathlib/Data/EReal/Operations.lean (hunk 6 above)
Comment (RemyDegenne) [reply Mathlib/Data/EReal/Operations.lean:498]: This one works, thanks!

**Review by YaelDillies — APPROVED** [review]
Thank you for teaching me the horrors of `EReal`

maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
